US05585394
5-Ethoxy-1,3-dihydro-1-(2-methoxy-4-carboxybenzenesulfonyl)-3-cyclohexyl-2H-benzimidazol-2-one
4 g of 5-ethoxy-1,3-dihydro-1-(2-methoxy-4-benzyloxycarbonylbenzenesulfonyl)-3-cyclohexyl-2H-benzimidazol-2-one in 100 ml of AcOEt were hydrogenated at room temperature and at atmospheric pressure in the presence of 200 mg of Pd/C. The catalyst was filtered off on C elite® and the filtrate was concentrated under vacuum. 2.47 g of the expected compound were obtained in the form of a white solid by crystallization from iso ether. M.p.=205° C.

reactant | 5-ethoxy-1,3-dihydro-1-(2-methoxy-4-benzyloxycarbonylbenzenesulfonyl)-3-cyclohexyl-2H-benzimidazol-2-one | 4 g | C(C)OC1=CC2=C(N(C(N2C2CCCCC2)=O)S(=O)(=O)C2=C(C=C(C=C2)C(=O)OCC2=CC=CC=C2)OC)C=C1 | C30H32N2O7S
solvent | AcOEt | 100 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 5-Ethoxy-1,3-dihydro-1-(2-methoxy-4-carboxybenzenesulfonyl)-3-cyclohexyl-2H-benzimidazol-2-one | 2.47 g | C(C)OC1=CC2=C(N(C(N2C2CCCCC2)=O)S(=O)(=O)C2=C(C=C(C=C2)C(=O)O)OC)C=C1 | C23H26N2O7S
